US07585886B2
At room temperature, 1.0 g of 10% palladium/carbon was added, while suspending in 10 ml of water, to a mixture of 9.69 g of (3R,4S)-1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidine, 5.70 mg of ammonium formate and 100 ml of methanol. This was vigorously stirred at 50° C. for 4 hours and then cooled down to room temperature, and the insoluble matter was removed by filtration through a celite layer. The filtrate was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-ethyl acetate) to obtain 7.89 g of (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidine as a pale yellow oily substance.

reactant | (3R,4S)-1-benzyl-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidine | 9.69 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=CC=C1)C(F)(F)F)CO[Si](C)(C)C(C)(C)C | C25H34F3NOSi
reactant | ammonium formate | 5.70 mg | C(=O)[O-].[NH4+]
reactant | methanol | 100 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | palladium/carbon | 1.0 g | [Pd] | Pd
product | (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidine | 7.89 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CNC[C@@H]1C1=CC(=CC=C1)C(F)(F)F | C18H28F3NOSi
